* Simple RC Circuit for Time Constant Analysis

* Define components
V1 1 0 PULSE(0 1 1u 10n 10n 5u 10u)
R1 1 2 1k
C1 2 0 1n


.control
* Perform transient analysis
tran 1n 20u
plot V(1) V(2)
* Finding the maximum capacitancce voltage
meas tran cx find V(2) at=6u
*Assigning the %63 percent vaalue to t63
let t63 = cx*0.63
* Finding tauTime by pointing the time that capacitance is at t63 voltage
meas tran tauTime when V(2) = t63
* Eliminating start offset
let tau = tauTime-1u
print tau
.endc
.end
