* Zipper Gate

.incl tsmc18.sp
.global vdd
* Parameters
.param wp=0.3u
.param wn=0.3u

* Power supply
VDD vdd 0 1.8

* Input pulse
Vin in 0 PULSE(0 1.8 1n 50p 50p 2n 4n)
va a 0 pulse 0 1.8 16.1n 100p 100p 15.9n 32n
vb b 0 pulse 0 1.8 8.1n 100p 100p 7.9n 16n
vc c 0 pulse 0 1.8 4.1n 100p 100p 3.9n 8n
vd d 0 pulse 0 1.8 2n 100p 100p 2n 4n
* Clock signals
vclk clk   0 pulse 0 1.8 0.4n 100p 100p 1n 2n
vclkn clkn 0 pulse 1.8 0 0.4n 100p 100p 1n 2n
*vclk clk 0 pulse 0 1.8 0.4n 0.1n 0.1n 1n 2n  * v1 v2 TD TR TF PW 
*vclkn clkn 0 pulse 0 1.8 0.4n 0.1n 0.1n 1n 2n  * v1 v2 TD TR TF PW 

* Stage 1

mp1 out1 clk vdd vdd cmosp w='wp' l=0.2u ad='wp*0.55u' as='wp*0.55u' pd='2*(wp+0.55u)' ps='2*(wp+0.55u)'
xstage1 b c out1 ncon1 stage1
mn1 ncon1 clk 0 0 cmosn w='wn' l=0.2u ad='wn*0.55u' as='wn*0.55u' pd='2*(wn+0.55u)' ps='2*(wn+0.55u)'

* Stage 2

mp2 pcon2 clkn vdd vdd cmosp w='wp' l=0.2u ad='wp*0.55u' as='wp*0.55u' pd='2*(wp+0.55u)' ps='2*(wp+0.55u)'
xstage2 d out1 out2 pcon2 stage2
mn2 out2 clkn 0 0 cmosn w='wn' l=0.2u ad='wn*0.55u' as='wn*0.55u' pd='2*(wn+0.55u)' ps='2*(wn+0.55u)'

* Stage 3

mp3 y clk vdd vdd cmosp w='wp' l=0.2u ad='wp*0.55u' as='wp*0.55u' pd='2*(wp+0.55u)' ps='2*(wp+0.55u)'
xstage3 a c y ncon3 out2 stage3
mn3 ncon3 clk 0 0 cmosn w='wn' l=0.2u ad='wn*0.55u' as='wn*0.55u' pd='2*(wn+0.55u)' ps='2*(wn+0.55u)'

* inverters
xinv1 y y1 inv
xinv2 y1 y2 inv

.subckt stage1 b c out ncon wn=0.3u

m1 out b n1 n1 cmosn w='wn' l=0.2u ad='wn*0.55u' as='wn*0.55u' pd='2*(wn+0.55u)' ps='2*(wn+0.55u)'
m2 n1 c ncon ncon cmosn w='wn' l=0.2u ad='wn*0.55u' as='wn*0.55u' pd='2*(wn+0.55u)' ps='2*(wn+0.55u)'

.ends

.subckt stage2 d stagein out pcon wp=0.3u

m1 out d pcon pcon cmosp w='wp' l=0.2u ad='wp*0.55u' as='wp*0.55u' pd='2*(wp+0.55u)' ps='2*(wp+0.55u)'
m2 out stagein pcon pcon cmosp w='wp' l=0.2u ad='wp*0.55u' as='wp*0.55u' pd='2*(wp+0.55u)' ps='2*(wp+0.55u)'

.ends

.subckt stage3 a c out ncon stagein wn=0.3u

m1 out c ncon ncon cmosn w='wn' l=0.2u ad='wn*0.55u' as='wn*0.55u' pd='2*(wn+0.55u)' ps='2*(wn+0.55u)'
m2 out a n1 n1 cmosn w='wn' l=0.2u ad='wn*0.55u' as='wn*0.55u' pd='2*(wn+0.55u)' ps='2*(wn+0.55u)'
m3 n1 stagein ncon ncon cmosn w='wn' l=0.2u ad='wn*0.55u' as='wn*0.55u' pd='2*(wn+0.55u)' ps='2*(wn+0.55u)'

.ends

.subckt inv in out wp=0.3u wn=0.3u
m1 out in vdd vdd cmosp w='wp' l=0.2u ad='wp*0.55u' as='wp*0.55u' pd='2*(wp+0.55u)' ps='2*(wp+0.55u)'
m2 out in 0 0 cmosn w='wn' l=0.2u ad='wn*0.55u' as='wn*0.55u' pd='2*(wn+0.55u)' ps='2*(wn+0.55u)'
.ends


.control
* Run transient simulation first to create voltage vectors
tran 0.1n 31.5n

*meas tran tphl TRIG v(in) VAL=0.9 RISE=1 TARG v(out) VAL=0.9 FALL=1
*meas tran tplh TRIG v(in) VAL=0.9 FALL=1 TARG v(out) VAL=0.9 RISE=1
plot V(clk) v(clkn) v(d)+2 v(c)+4 v(b)+6 v(a)+8 v(y2)+10

.endc
.end
