* Parametric CMOS Inverter Netlist

.incl tsmc18.sp

* Parameters
.param Wp=0.75u
.param Lp=0.2u
.param Wn=0.5u
.param Lnch=0.2u
.param Cl=10pf


* Power supply
VDD vdd 0 1.8

* Input pulse
Vin in 0 PULSE(0 1.8 100p 10p 10p 100n 200n)

* PMOS (M1)
M1 out in vdd vdd cmosp W={Wp} L={Lp}

* NMOS (M2)
M2 out in 0 0 cmosn W={Wn} L={Lnch}

* Load Capacitance
Cload out 0 {Cl}


.control
tran 5p 200n
plot v(in) v(out)
meas tran tphl TRIG v(in) VAL=0.9 RISE=1 TARG v(out) VAL=0.9 FALL=1
meas tran tplh TRIG v(in) VAL=0.9 FALL=1 TARG v(out) VAL=0.9 RISE=1

.endc
.end