inverter vtc
.incl tsmc18.sp

vdd 1 0 dc 1.8
vin in 0 dc 0
mn1 out in 0 0 cmosn w=0.3u l=0.2u
mp1 out in 1 1 cmosp w=0.9u l=0.2u
.control
dc vin 0 1.8 1m 
plot v(in) v(out)
plot deriv(v(out))
.endc
.end