midterm q1c
.incl tsmc18.sp

.param wp=0.3u
.param wn=0.3u

vdd vdd 0 dc 1.8
Vx1 x1 0 PULSE(0 1.8 0n 1n 1n 5n 10n)
Vx2 x2 0 PULSE(0 1.8 0n 1n 1n 10n 20n)
Vx3 x3 0 PULSE(0 1.8 0n 1n 1n 20n 40n)
Vx4 x4 0 PULSE(0 1.8 0n 1n 1n 40n 80n)
Vx5 x5 0 PULSE(0 1.8 0n 1n 1n 80n 160n)

mp1 p1 x1 vdd vdd cmosp w='wp' l=0.2u ad='wp*0.55u' as='wp*0.55u' pd='2*(wp+0.55u)' ps='2*(wp+0.55u)'
mp2 y x2 p1 p1 cmosp w='wp' l=0.2u ad='wp*0.55u' as='wp*0.55u' pd='2*(wp+0.55u)' ps='2*(wp+0.55u)'
mp3 y x3 p1 p1 cmosp w='wp' l=0.2u ad='wp*0.55u' as='wp*0.55u' pd='2*(wp+0.55u)' ps='2*(wp+0.55u)'
mp4 p1 x4 p2 p2 cmosp w='wp' l=0.2u ad='wp*0.55u' as='wp*0.55u' pd='2*(wp+0.55u)' ps='2*(wp+0.55u)'
mp5 p2 x5 vdd vdd cmosp w='wp' l=0.2u ad='wp*0.55u' as='wp*0.55u' pd='2*(wp+0.55u)' ps='2*(wp+0.55u)'


mn1 y x1 n1 n1 cmosn w='wn' l=0.2u ad='wn*0.55u' as='wn*0.55u' pd='2*(wn+0.55u)' ps='2*(wn+0.55u)'
mn2 y x2 n2 n2 cmosn w='wn' l=0.2u ad='wn*0.55u' as='wn*0.55u' pd='2*(wn+0.55u)' ps='2*(wn+0.55u)'
mn3 n2 x3 0 0 cmosn w='wn' l=0.2u ad='wn*0.55u' as='wn*0.55u' pd='2*(wn+0.55u)' ps='2*(wn+0.55u)'
mn4 n1 x4 0 0 cmosn w='wn' l=0.2u ad='wn*0.55u' as='wn*0.55u' pd='2*(wn+0.55u)' ps='2*(wn+0.55u)'
mn5 n1 x5 0 0 cmosn w='wn' l=0.2u ad='wn*0.55u' as='wn*0.55u' pd='2*(wn+0.55u)' ps='2*(wn+0.55u)'

.control

tran 0.5n 160n

plot v(x1) v(x2)+2 v(x3)+4 v(x4)+6 v(x5)+8 v(y)+10

.endc

.end